US04673686
N-(1-cyclopentyl-2-pyrrolidinyl-methyl)-2-methoxy-4-amino-5-ethylsulphinyl benzamide
85.5 g of 2-methoxy-4-acetamino-5-ethylsulphinyl benzoic acid, 85 ml of water, 342 ml of acetone and 31 g of triethylamine are placed in a 1 liter flask fitted with an agitator, a thermometer and a dropping funnel. The mixture is agitated until the solids dissolve, then 32.5 g of ethyl chloroformate is added drop by drop while the temperature is kept at about 10° C. The reaction medium is agitated for 30 minutes at room temperature then cooled to 5°-10° C. and 50.4 g of 1-cyclopentyl-2-aminomethylpyrrolidine is added drop by drop in the course of 1 hour. Agitation is continued for 2 hours at room temperature, then the reaction mixture is evaporated to dryness under vacuum. The residue is dissolved in 300 ml of water and the suspension is extracted with 500 ml then twice with 300 ml of methylene chloride. The organic phase is washed twice with 200 ml of water and evaporated under vacuum. The oily residue is dissolved hot in 300 ml of water. 90 ml of soda lye is added and the medium is heated to reflux for 2 hours 30. An oil appears rapidly. It is cooled, the suspension is extracted twice with 250 ml methylene chloride, and the organic solution is washed three times with 200 ml of water. It is dried over magnesium sulphate, filtered and evaporated to dryness under vacuum. The residue is dissolved in 320 ml of ethyl acetate, then the product is left to crystallise in a refrigerator. The crystals are filtered off and dried in an oven at 50° C.

reactant | 2-methoxy-4-acetamino-5-ethylsulphinyl benzoic acid | 85.5 g | COC1=C(C(=O)O)C=C(C(=C1)NC(=O)C)S(=O)CC | C12H15NO5S
reactant | water | 85 ml | O | H2O
reactant | ethyl chloroformate | 32.5 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cyclopentyl-2-aminomethylpyrrolidine | 50.4 g | C1(CCCC1)N1C(CCC1)CN | C10H20N2
solvent | triethylamine | 31 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 342 ml | CC(=O)C | C3H6O
product | N-(1-cyclopentyl-2-pyrrolidinyl-methyl)-2-methoxy-4-amino-5-ethylsulphinyl benzamide | C1(CCCC1)N1C(CCC1)CNC(C1=C(C=C(C(=C1)S(=O)CC)N)OC)=O | C20H31N3O3S
